US08258175B2
Distilled THF (25 mL) was added to 3-chloro-3-(4-chlorophenyl)-3H-isobenzofuran-1-one (3.2 g, 11.5 mmol) followed by 4-nitrobenzylamine hydrochloride (2.3 g, 12.6 mmol) and triethylamine (4.8 mL, 34.5 mmol) as for general procedure A. The crude product was recrystallised in the minimum amount of boiling ethyl acetate to give 3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one as a light yellow solid (2.95 g, 7.47 mmol, 65%); Rf=0.4 (40:60:EtOAc:petrol). 197.1-199.7° C. λmax (CH3OH)/nm 220, Abs 0.765. IR: 3215, 1676, 1517, 1395, 1341 cm−1. 1H NMR: (300 MHz, d6-DMSO) δ 4.35 (d, 1H, J=16.3 Hz, N—CH2), 4.61 (d, 1H, J=16.3 Hz, N—CH2), 7.28 (m, 4H, Ar—H), 7.45 (m, 3H, Ar—H), 7.58 (m, 2H, Ar—H), 7.79 (m, 1H, Ar—H), 8.05 (m, 2H, Ar—H). 13C NMR: (75 MHz, d6-DMSO) δ 42.1, 90.5, 123.1, 123.3, 128.4, 128.7, 129.1, 129.9, 130.3, 133.2, 133.3, 138.9, 146.4, 146.5, 149.4, 167.1. LC/MS-ES+ m/z 307.2, 368.2, 377.1. Anal. Calcd. for C21H15CN2O4: C, 63.89; H, 3.83; N, 7.10%. Found C, 63.78; H, 3.92; N, 7.12%. HRMS (EI) m/z Calcd. for C21H15ClN2O4: 394.0720. Found 394.0714.

reactant | 3-chloro-3-(4-chlorophenyl)-3H-isobenzofuran-1-one | 11.5 mmol, 3.2 g | ClC1(OC(C2=CC=CC=C12)=O)C1=CC=C(C=C1)Cl | C14H8Cl2O2
reactant | 4-nitrobenzylamine hydrochloride | 12.6 mmol, 2.3 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | triethylamine | 34.5 mmol, 4.8 mL | C(C)N(CC)CC | C6H15N
product | 3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 7.47 mmol, 2.95 g, 65% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])O | C21H15ClN2O4
